US06057369
A solution of n-butyl lithium in hexanes (0.6 mL, 1.4 mmol) is added slowly to a mixture of 4-methoxybenzenethiol (2 g, 14 mmol) in THF (10 mL) at 0° C. After 2 minutes a solution of t-butyl (E)-2-hydroxymethyl-7-phenylhept-2-enoate (2.2 g, 7.59 mmol) in THF (7 mL) is added and the reaction is allowed to warm to room temperature. After 1 hours the reaction is concentrated in vacuo and the crude product is purified by column chromatography using gradient elution (silica, 15 to 30% ether in petroleum ether) to give (±)-t-butyl (2R*,3R*)-2-hydroxymethyl-3-(4-methoxyphenylsulfanyl)-7-phenylheptanoate (3 g, 92%): 1H NMR (300 MHz, CDCl3) δ 7.39-7.34 (m, 2H), 7.30-7.25 (m, 2H), 7.20-7.13 (m, 3H), 6.86-6.81 (m, 2H), 4.07-3.98 (m,1H), 3.93-3.86 (m, 1H), 3.80 (s, 3H), 3.26-3.19 (m, 1H), 2.67-2.60 (m, 1H), 2.58 (t, J=7.2 Hz, 2H), 2.38 (t, J=6.6 Hz, 1H), 1.65-1.47 (m, 6H), 1.46 (s, 9H); MS (FAB) m/e 430 (M+).

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-methoxybenzenethiol | 14 mmol, 2 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | t-butyl (E)-2-hydroxymethyl-7-phenylhept-2-enoate | 7.59 mmol, 2.2 g | OC/C(/C(=O)OC(C)(C)C)=C\CCCCC1=CC=CC=C1 | C18H26O3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | (±)-t-butyl (2R*,3R*)-2-hydroxymethyl-3-(4-methoxyphenylsulfanyl)-7-phenylheptanoate | 3 g, 92% | OC[C@H](C(=O)OC(C)(C)C)[C@@H](CCCCC1=CC=CC=C1)SC1=CC=C(C=C1)OC | C25H34O4S
